datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[O:10][O:11][H:12]>>[C:0]([C:1]([N:2]([H:8])[H:9])[H:7])([H:3])([H:4])[H:5].[H:6][O:10][O:11][H:12],44.978
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[H:22]>>[C:0](=[C:1]([C:2]([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[H:10][H:22],18.2472608
[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10](=[O:11])[H:17])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1](=[O:2])[O:3][O:4][H:17])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]=[O:11])([H:15])[H:16])([H:12])([H:13])[H:14],49.87328
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10](=[S:11])[H:16])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9]([C:8]([H:12])([H:13])[H:14])([C:10](=[S:11])[H:16])[H:15],94.14
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([O:14])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:6])[H:7].[H:5][O:14][C:13]([H:15])([H:16])[H:17],27.02864
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16])[H:4],8.87008
[C:0]([C:1]([C:2]([O:3][O:4][H:11])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:0]([C:1]1([H:8])[C:2]([H:9])([H:10])[O:3]1)([H:5])([H:6])[H:7].[O:4][H:11],47.2792
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]=[C:11]([H:13])[H:14])[H:12]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:9](=[C:10]=[C:11]([H:13])[H:14])[H:12],45.6056
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18])([H:15])([H:16])[H:17]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:8]([C:7]([H:15])([H:16])[H:17])([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18],109.688
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([H:15])([H:16])[H:17])=[C:7]([C:8]([H:19])([H:20])[H:21])[H:18])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([C:6]([H:15])([H:16])[H:17])[C:7]1([C:8]([H:19])([H:20])[H:21])[H:18])[H:9],82.8432
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([C:9]([S:10][H:15])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9]([C:8]([H:11])([H:12])[H:13])([S:10][H:15])[H:14],3.7656
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18],28.8696
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[S:8]=[C:9]([S:10][H:12])[H:11]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:12])([H:3])[H:4].[S:8]=[C:9]([S:10])[H:11],-22.1752
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14],56.9024
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9](=[C:10]([c:11]1[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]1[H:26])[H:21])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:10]([C:9]([C:8]([H:17])([H:18])[H:19])[H:20])([c:11]1[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]1[H:26])[H:21])([H:3])[H:4],17.4891
[N:0]([N:1]([N:2]=[O:3])[H:6])([H:4])[H:5]>>[N:0]([N:1][H:6])([H:4])[H:5].[N:2]=[O:3],148.996424
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20],12.1336
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([S:10][H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[S:10][C:9]([H:11])([H:12])[H:13])[H:4].[H:14],111.294
[H:1].[c:2]1[c:4]([H:5])[c:6]([H:7])[c:8]2[c:10]([H:11])[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]2[c:20]#1>>[H:1][c:20]1[c:2][c:4]([H:5])[c:6]([H:7])[c:8]2[c:10]([H:11])[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]21,1.824224
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])([H:10])([H:11])[H:12]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:7]([C:6]([H:10])([H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18],24.2672
[N:4]=[C:5]=[O:6].[O:0]=[N:1][O:2][H:3]>>[H:3][N:4]=[C:5]=[O:6].[O:0]=[N:1][O:2],0.0
